US07012075B2
To (4S)-1-{4′-[4-(tert-butoxycarbonyl)piperazin-1-yl]-4-chloro-1,1′-biphenyl-3-yl}-N-(cyanomethyl)-4-methyl-L-prolinamide (66 mg, 0.123 mmol) in dry TBF (0.25 mL) under dry nitrogen was gradually added a total of 3 equivalents of MeSO3H (30 mL, 0.39 mmol) over a period of 1 hour in portions of 1–2 equivalents at a time and the reaction mixture was stirred overnight. Aqueous sat. NaHCO3 was added carefully and the product was extracted with EtOAc (2×), dried over Na2SO4, concentrated in vacuo and purified by flash chromatography over silica gel (HOH/MeOH/CH2Cl2, 1/9/90) to afford (4S)-1-(4-chloro-4′-piperazin-1-yl-1,1′-biphenyl-3-yl)-N-(cyanomethyl)-4-methyl-L-prolinamide. MS (-APCI): 436.2 [M−1]−.

reactant | (4S)-1-{4′-[4-(tert-butoxycarbonyl)piperazin-1-yl]-4-chloro-1,1′-biphenyl-3-yl}-N-(cyanomethyl)-4-methyl-L-prolinamide | 0.123 mmol, 66 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)C1=CC(=C(C=C1)Cl)N1[C@H](C(=O)NCC#N)C[C@@H](C1)C | C29H36ClN5O3
reactant | MeSO3H | 0.39 mmol, 30 mL, 3 equivalents | CS(=O)(=O)O | CH4O3S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
product | (4S)-1-(4-chloro-4′-piperazin-1-yl-1,1′-biphenyl-3-yl)-N-(cyanomethyl)-4-methyl-L-prolinamide | ClC1=C(C=C(C=C1)C1=CC=C(C=C1)N1CCNCC1)N1[C@H](C(=O)NCC#N)C[C@@H](C1)C | C24H28ClN5O
